US08937178B2
A solution of 4-chloro-2-(3-cyanobenzoyl)-5-methoxybenzoic acid (3.0 g, 9.50 mmol) in hydrazine hydrate (0.6 mL 11.4 mmol) and EtOH (40 mL) was heated at 80° C. for 2 h. The reaction mixture was diluted with water (100 mL), and the precipitate was filtered and dried to obtain 3-(7-chloro-6-methoxy-4-oxo-3,4-dihydrophthalazin-1-yl)benzonitrile (0.6 g, 17%) (312.4 [M+H]) 1H NMR: (400 MHz, DMSO) δ: 3.96 (s, 3H), 7.64 (s, 1H), 7.79-7.75 (t, 1H), 7.87 (s, 1H), 7.96-7.94 (d, J=8, 1H), 8.04-8.02 (d, J=8, 1H), 8.09 (s, 1H), 13.03 (s, 1H).

reactant | 4-chloro-2-(3-cyanobenzoyl)-5-methoxybenzoic acid | 9.50 mmol, 3.0 g | ClC1=CC(=C(C(=O)O)C=C1OC)C(C1=CC(=CC=C1)C#N)=O | C16H10ClNO4
reactant | hydrazine hydrate | 11.4 mmol, 0.6 mL | O.NN
solvent | EtOH | 40 mL | CCO | C2H6O
solvent | water | 100 mL | O | H2O
product | 3-(7-chloro-6-methoxy-4-oxo-3,4-dihydrophthalazin-1-yl)benzonitrile | 0.6 g, 17% | ClC1=C(C=C2C(NN=C(C2=C1)C=1C=C(C#N)C=CC1)=O)OC | C16H10ClN3O2
